US08609656B2
Preparation of 4-(pyridin-4-yl)methyl-3-(trifluoromethyl)aniline
To 10 mL of an ethanol solution of 227 mg (0.69 mmol) of 4-[4-(2,5-dimethyl-pyrrol-1-yl)-2-trifluoromethyl-benzyl]-pyridine, 191 mg (2.75 mmol) of hydroxylamine hydrochloride and 200 μL of triethylamine were added and the mixture solution was refluxed with stirring for 18 hours. The reaction solution was partitioned between a saturated sodium bicarbonate solution and ethyl acetate and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The obtained residue was purified by a silica gel column (n-hexane:ethyl acetate=1:1) to obtain 144 mg (83%) of a target product as a pale yellow oil.

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 4-[4-(2,5-dimethyl-pyrrol-1-yl)-2-trifluoromethyl-benzyl]-pyridine | 0.69 mmol, 227 mg | CC=1N(C(=CC1)C)C1=CC(=C(CC2=CC=NC=C2)C=C1)C(F)(F)F | C19H17F3N2
reactant | hydroxylamine hydrochloride | 2.75 mmol, 191 mg | Cl.NO
solvent | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
product | 4-(pyridin-4-yl)methyl-3-(trifluoromethyl)aniline | 144 mg, 83% | N1=CC=C(C=C1)CC1=C(C=C(N)C=C1)C(F)(F)F | C13H11F3N2
